US05451686
4-(1-Hydroxytridecyl)-5-methyl-2(5H)-furanone (Compound 3)
NaBH4 (210 mg, 5.54 mmol) was added in portions to a solution of 4-(1-hydroxytridecyl)-5-hydroxy-5-methyl-2-furanone (586 mg, 1.85 mmol) in anhydrous ethyle glycol dimethyl ether (60 mL) at 0° C. under argon. After stirring for 3 hours at 0° C. the reaction was quenched with HCl (6N) to pH2 and extracted with ethyl acetate. The combined organic fractions were washed with a saturated solution of aqueous sodium bicarbonate, H2O and brine. Evaporation of the dried (magnesium sulfate) extracts gave an oil which was purified by flash chromatography on silica using 30% ethyl acetate/hexane to give the title compound as a mixture of diastereomers. Recrystallization from diethyl ether/hexane gave a single diastereomer.

reactant | NaBH4 | 5.54 mmol, 210 mg | [BH4-].[Na+]
reactant | 4-(1-hydroxytridecyl)-5-hydroxy-5-methyl-2-furanone | 1.85 mmol, 586 mg | OC(CCCCCCCCCCCC)C1=CC(OC1(C)O)=O | C18H32O4
solvent | glycol dimethyl ether | 60 mL | COCCOC | C4H10O2
product | 4-(1-Hydroxytridecyl)-5-methyl-2(5H)-furanone | OC(CCCCCCCCCCCC)C1=CC(OC1C)=O | C18H32O3
